### PR TITLE
[Merged by Bors] - feat(Algebra/DirectSum): equivalence between direct sum indexed by ι₁ and double sum indexed by ι₂ and fibres of f : ι₁ → ι₂

### PR DESCRIPTION
**Pull request by TentativeConvert**
1. Add variant `equivCongrLeft'` of `equivCongrLeft`, and corresponding `…_apply` lemma.
2. Add `…_of lemmas` for both `equivCongrLeft` and `equivCongrLeft'`.
3. Add `…of lemma` for `sigmaCurry`, i.e. `sigmaCurry_of`.
4. Add `sigmaFiberAddEquiv`: the equivalence between a direct sum indexed by a type `ι₁` and the  double sum indexed by a type `ι₂` and the fibres of a map `f : ι₁ → ι₂`.  Add two `…_apply` lemmas and an `…_of` lemma.

---
This is supposed to be a first step towards merging the draft PR #39356.

re 1:  Mathematically, I don't see why one version should be preferred over the other, but I found the existing `equivCongrLeft` more difficult to work with when the equivalence `h : ι ≃ κ` is naturally given in the opposite direction.  (I could not avoid explicit type casts through the equality `h.symm.symm = h` when defining `sigmaFiberAddEquiv` in terms of `equivCongrLeft`.)

Very unsure about the name of `equivCongrLeft'`. (I see that the name `equivCongrLeft` was chosen in analogy with `Equiv.piCongrLeft`.  `Equiv.piCongrRight` looks very different, so presumably `equivCongrLeft'` should *not* be called `equivCongrRight`.)

re 4:  Very unsure about the naming of the two different `…_apply` lemmas; called them `…_apply` and `…_apply'` for now.  The second (`…_apply'`) cannot be a `simp` lemma as it would prevent the first (`…_apply`) from firing.

I've used Claude Opus for understanding error messages and git interaction, but everything is hand coded.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 1]
```diff
@@ -302,15 +302,36 @@ section CongrLeft
...
-/-- Reindexing terms of a direct sum. -/
+/-- Reindexing terms of a direct sum: change indexing type from `ι` to `κ` along an equivalence
+    `h : ι ≃ κ`. -/
 def equivCongrLeft (h : ι ≃ κ) : (⨁ i, β i) ≃+ ⨁ k, β (h.symm k) :=
   { DFinsupp.equivCongrLeft h with map_add' := DFinsupp.comapDomain'_add _ h.right_inv }
 
+/-- Reindexing terms of a direct sum: change indexing type from `ι` to `κ` along an equivalence
+    `h : κ ≃ ι`. -/
+def equivCongrLeft' (h : κ ≃ ι) : (⨁ i, β i) ≃+ ⨁ k, β (h k) :=
+  { DFinsupp.equivCongrLeft h.symm with map_add' := DFinsupp.comapDomain'_add _ h.left_inv }
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: This is just:
```suggestion
  equivCongrLeft h.symm
```
no need to reprove it

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Basic.lean]: Given we don't have both for DFinsupp, do we really want both for DirectSum?

Comment (themathqueen) [reply Mathlib/Algebra/DirectSum/Basic.lean]: Right, that was my next question. I don't really see the point of this. The PR description says it's because it's difficult to define `sigmaFiberAddEquiv` via `equivCongrLeft`. But I just tried it and it was fine? Not sure what I'm missing.

Why is `DirectSum.equivCongrLeft` and `DFinsupp.equivCongrLeft` written via `Equiv.symm` anyway? 🤔

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: What I wanted to say was:  I didn't manage to prove `sigmaFiberAddEquiv_of` without explicit typecasts along `h.symm.symm = h` when defining `sigmaFiberAddEquiv` in terms of `equivCongrLeft`.

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: > Why is DirectSum.equivCongrLeft and DFinsupp.equivCongrLeft written via Equiv.symm anyway?

I guess that's not really for me to answer.

Comment (themathqueen) [reply Mathlib/Algebra/DirectSum/Basic.lean]: > What I wanted to say was: I didn't manage to prove sigmaFiberAddEquiv_of without explicit typecasts along h.symm.symm = h when defining sigmaFiberAddEquiv in terms of equivCongrLeft.

here is your proof, but slightly adjusted (without any typecasts)
```lean
@[simp]
theorem sigmaFiberAddEquiv_of [DecidableEq ι₁] (i : ι₁) (x : β i) :
    sigmaFiberAddEquiv f (of _ i x) = of _ (f i) (of _ ⟨i, rfl⟩ x) := by
  let h := Equiv.sigmaFiberEquiv f
  let k : (j : ι₂) × {i₁ : ι₁ // f i₁ = j} := ⟨f i, ⟨i, rfl⟩⟩
  calc sigmaFiberAddEquiv f (of β (h k) x)
    _ = sigmaCurry (of (fun k : (j' : ι₂) × {i // f i = j'} ↦ β (h k)) k x) := by
      simp only [h, sigmaFiberAddEquiv_apply', equivCongrLeft_of]
    _ = sigmaCurry (of (fun k : (j' : ι₂) × {i // f i = j'} ↦ β k.2) k x) := rfl
    _ = of _ k.1 (of _ k.2 x) := by simp only [sigmaCurry_of]
```

where `equivCongrLeft_of` is changed to
```lean
@[simp]
theorem equivCongrLeft_of [DecidableEq ι] [DecidableEq κ] (h : κ ≃ ι) (k : κ) (x : β (h k)) :
    equivCongrLeft h.symm (of β (h k) x) = of (fun k ↦ β (h k)) k x :=
  DFinsupp.comapDomain'_single h h.left_inv _ _
```

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/Basic.lean]: > Why is `DirectSum.equivCongrLeft` and `DFinsupp.equivCongrLeft` written via `Equiv.symm` anyway? 🤔

It's so that the types go in the same direction in argument and conclusion. It doesn't really matter much since `e.symm.symm = e` is true by `rfl` (quite deliberately)

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: @themathqueen wrote:
> where equivCongrLeft_of is changed to …

But now `h` has a different direction in `equivCongrLeft_of` than it has in the definition of `equivCongrLeft`.  Isn't that also confusing? 

I see and agree now there's no need for a new equivalence `equivCongrLeft'`, but it still seems to me that it would be useful to have both `equivCongrLeft_of` as I stated it …
```lean4
theorem equivCongrLeft_of [DecidableEq ι] [DecidableEq κ] (h : ι ≃ κ) (k : κ) (x : β (h.symm k)) :
    equivCongrLeft h (of β (h.symm k) x) = of (fun k ↦ β (h.symm k)) k x 
```
… and the variant that you stated …
```lean4
theorem equivCongrLeft_of [DecidableEq ι] [DecidableEq κ] (h : κ ≃ ι) (k : κ) (x : β (h k)) :
    equivCongrLeft h.symm (of β (h k) x) = of (fun k ↦ β (h k)) k x
```
… which is essentially what I called `equivCongrLeft'_of`.  Or is there any intrinsic reason to prefer this second variant over the first?  For what I want to do here, I only need the second variant.  If you're happy to keep just this version, I would at least try to find a name for it that hints at the change of direction in `h`.

Comment (themathqueen) [reply Mathlib/Algebra/DirectSum/Basic.lean]: keep both versions of the lemma and add a prime to the other one?

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 2]
```diff
@@ -302,7 +302,8 @@ section CongrLeft
 
 variable {κ : Type*}
 
-/-- Reindexing terms of a direct sum. -/
+/-- Reindexing terms of a direct sum: change indexing type from `ι` to `κ` along an equivalence
+    `h : ι ≃ κ`. -/
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]:
```suggestion
`h : ι ≃ κ`. -/
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 3]
```diff
@@ -357,6 +369,42 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+
+@[simp]
+theorem sigmaFiberAddEquiv_apply (x : ⨁ i, β i) (j : ι₂) (i' : { i : ι₁ // f i = j}) :
+    sigmaFiberAddEquiv f x j i'=  x i' := by
+  rw [DirectSum.sigmaFiberAddEquiv_apply']
+  rfl
+
+@[simp]
+theorem sigmaFiberAddEquiv_of [DecidableEq ι₁] (i : ι₁) (x : β i) :
+  sigmaFiberAddEquiv f (of _ i x) = of _ (f i) (of _ ⟨i, rfl⟩ x) := by
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]:
```suggestion
    sigmaFiberAddEquiv f (of _ i x) = of _ (f i) (of _ ⟨i, rfl⟩ x) := by
```

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 1 above)
Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: I've removed `equivCongrLeft'` and `equivCongrLeft'_of`, and I've adapted the proof of `sigmaFiberAddEquiv_of` to use the unprimed version of each. Contrary to my earlier attempts, I have now managed to find such a proof without any explicit typecast.

**Comment by TentativeConvert** [comment]
-awaiting-author

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 4]
```diff
@@ -311,6 +312,11 @@ theorem equivCongrLeft_apply (h : ι ≃ κ) (f : ⨁ i, β i) (k : κ) :
     equivCongrLeft h f k = f (h.symm k) := by
   exact DFinsupp.comapDomain'_apply _ h.right_inv _ _
 
+@[simp]
+theorem equivCongrLeft_of [DecidableEq ι] [DecidableEq κ] (h : ι ≃ κ) (k : κ) (x : β (h.symm k)) :
+    equivCongrLeft h (of β (h.symm k) x) = of (fun k ↦ β (h.symm k)) k x := by
+  exact DFinsupp.comapDomain'_single (⇑h.symm) h.right_inv _ _
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: why are you doing `by exact lemmaname` and not just `:= lemmaname`? (here and throughout)
```suggestion
    equivCongrLeft h (of β (h.symm k) x) = of (fun k ↦ β (h.symm k)) k x :=
  DFinsupp.comapDomain'_single (⇑h.symm) h.right_inv _ _
```

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: Only because I noticed this in other places in Mathlib.  I get 800+ hits when searching for "by exact" in Mathlib, and I've just checked a few such occurrences at random to verify that they could be rephrased the way you suggest.  And I don't see anything on this in the style guide.  

Anyway, happy to switch from one to the other if you believe I should.

Comment (themathqueen) [reply Mathlib/Algebra/DirectSum/Basic.lean]: I think sometimes (in other parts of the library maybe) there are reasons to do so, but here I see no reason to do so

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: What about the proof of `equivCongrLeft_apply` right above?  I did not write this.  It uses `by exact`, even though that seems completely unnecessary.  If I remove `by exact` from the proof of `equivCongrLeft_of`, should I  also remove it from the proof of `equivCongrLeft_apply?`

Comment (themathqueen) [reply Mathlib/Algebra/DirectSum/Basic.lean]: remove them from everywhere :)

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 5]
```diff
@@ -357,6 +369,42 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+theorem sigmaFiberAddEquiv_of [DecidableEq ι₁] (i : ι₁) (x : β i) :
+    sigmaFiberAddEquiv f (of _ i x) = of _ (f i) (of _ ⟨i, rfl⟩ x) := by
+  let h := Equiv.sigmaFiberEquiv f
+  let k : (j : ι₂) × {i₁ : ι₁ // f i₁ = j} := ⟨f i, ⟨i, rfl⟩⟩
+  calc sigmaFiberAddEquiv f (of β (h k) x)
+  _ = sigmaCurry (of (fun k : (j' : ι₂) × {i // f i = j'} ↦ β k.2) k x) := by
+      rw [sigmaFiberAddEquiv_apply']
+      exact congrArg sigmaCurry (equivCongrLeft_of (h := h.symm) _ _)
+  _ = of _ k.1 (of _ k.2 x) := by
+      rw [sigmaCurry_of]
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: indent two spaces for the `calc` block
```suggestion
    _ = sigmaCurry (of (fun k : (j' : ι₂) × {i // f i = j'} ↦ β k.2) k x) := by
      rw [sigmaFiberAddEquiv_apply']
      exact congrArg sigmaCurry (equivCongrLeft_of (h := h.symm) _ _)
    _ = of _ k.1 (of _ k.2 x) := by
      rw [sigmaCurry_of]
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 6]
```diff
@@ -302,14 +302,20 @@ section CongrLeft
...
 theorem equivCongrLeft_apply (h : ι ≃ κ) (f : ⨁ i, β i) (k : κ) :
-    equivCongrLeft h f k = f (h.symm k) := by
-  exact DFinsupp.comapDomain'_apply _ h.right_inv _ _
+    equivCongrLeft h f k = f (h.symm k) :=
+  DFinsupp.comapDomain'_apply _ h.right_inv _ _
+
+@[simp]
+theorem equivCongrLeft_of [DecidableEq ι] [DecidableEq κ] (h : ι ≃ κ) (k : κ) (x : β (h.symm k)) :
+    equivCongrLeft h (of β (h.symm k) x) = of (fun k ↦ β (h.symm k)) k x :=
+  DFinsupp.comapDomain'_single (⇑h.symm) h.right_inv _ _
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]:
```suggestion
  DFinsupp.comapDomain'_single h.symm h.right_inv _ _
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 7]
```diff
@@ -357,6 +369,42 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+/-- The equivalence between a direct sum indexed by a type `ι₁` and the
+    double sum indexed by a type `ι₂` and the fibres of a map `f : ι₁ → ι₂`. -/
+def sigmaFiberAddEquiv : (⨁ i, β i) ≃+ ⨁ (j : ι₂) (i : { i : ι₁ // f i = j}), β ↑i :=
+  (equivCongrLeft (Equiv.sigmaFiberEquiv f).symm).trans
+    (sigmaCurryEquiv (δ := fun j ↦ (fun (i : { i : ι₁ // f i = j}) ↦ β i)))
+
+theorem sigmaFiberAddEquiv_apply' (x : ⨁ i, β i) :
+    sigmaFiberAddEquiv f x = sigmaCurry (equivCongrLeft (Equiv.sigmaFiberEquiv f).symm x) := by
+  simp only [DirectSum.sigmaFiberAddEquiv,AddEquiv.trans_apply]
+  rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: this can be proved with `rfl`
```suggestion
    sigmaFiberAddEquiv f x = sigmaCurry (equivCongrLeft (Equiv.sigmaFiberEquiv f).symm x) := rfl
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 8]
```diff
@@ -357,6 +369,42 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+
+@[simp]
+theorem sigmaFiberAddEquiv_apply (x : ⨁ i, β i) (j : ι₂) (i' : { i : ι₁ // f i = j}) :
+    sigmaFiberAddEquiv f x j i'=  x i' := by
+  rw [DirectSum.sigmaFiberAddEquiv_apply']
+  rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: same as this
```suggestion
    sigmaFiberAddEquiv f x j i'=  x i' := rfl
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 9]
```diff
@@ -357,6 +369,42 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+
+/-- The equivalence between a direct sum indexed by a type `ι₁` and the
+    double sum indexed by a type `ι₂` and the fibres of a map `f : ι₁ → ι₂`. -/
+def sigmaFiberAddEquiv : (⨁ i, β i) ≃+ ⨁ (j : ι₂) (i : { i : ι₁ // f i = j}), β ↑i :=
+  (equivCongrLeft (Equiv.sigmaFiberEquiv f).symm).trans
+    (sigmaCurryEquiv (δ := fun j ↦ (fun (i : { i : ι₁ // f i = j}) ↦ β i)))
+
+theorem sigmaFiberAddEquiv_apply' (x : ⨁ i, β i) :
+    sigmaFiberAddEquiv f x = sigmaCurry (equivCongrLeft (Equiv.sigmaFiberEquiv f).symm x) := by
+  simp only [DirectSum.sigmaFiberAddEquiv,AddEquiv.trans_apply]
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]:
```suggestion
  simp only [DirectSum.sigmaFiberAddEquiv, AddEquiv.trans_apply]
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 10]
```diff
@@ -357,6 +369,42 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+  rfl
+
+@[simp]
+theorem sigmaFiberAddEquiv_apply (x : ⨁ i, β i) (j : ι₂) (i' : { i : ι₁ // f i = j}) :
+    sigmaFiberAddEquiv f x j i'=  x i' := by
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]:
```suggestion
    sigmaFiberAddEquiv f x j i' = x i' := by
```

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 9 above)
Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: This line has already been removed.

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 10 above)
Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: fixed in [0d58d24](https://github.com/leanprover-community/mathlib4/pull/39607/commits/0d58d24d28412c9cd6a1ae3cf391532f27a1f52d)

**Comment by TentativeConvert** [comment]
-awaiting-author

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 11]
```diff
@@ -357,6 +369,37 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+@[simp]
+theorem sigmaFiberAddEquiv_of [DecidableEq ι₁] (i : ι₁) (x : β i) :
+    sigmaFiberAddEquiv f (of _ i x) = of _ (f i) (of _ ⟨i, rfl⟩ x) := by
+  let h := Equiv.sigmaFiberEquiv f
+  let k : (j : ι₂) × {i₁ : ι₁ // f i₁ = j} := ⟨f i, ⟨i, rfl⟩⟩
+  calc sigmaFiberAddEquiv f (of β (h k) x)
+    _ = sigmaCurry (of (fun k : (j' : ι₂) × {i // f i = j'} ↦ β k.2) k x) := by
+      rw [sigmaFiberAddEquiv_apply']
+      exact congrArg sigmaCurry (equivCongrLeft_of (h := h.symm) _ _)
+    _ = of _ k.1 (of _ k.2 x) := sigmaCurry_of _ _
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: does `by simp` work here?

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 12]
```diff
@@ -339,6 +345,12 @@ theorem sigmaCurry_apply (f : ⨁ i : Σ _i, _, δ i.1 i.2) (i : ι) (j : α i)
     sigmaCurry f i j = f ⟨i, j⟩ :=
   DFinsupp.sigmaCurry_apply (δ := δ) _ i j
 
+@[simp]
+theorem sigmaCurry_of [∀ i : ι, DecidableEq (α i)] (k : (i : ι) × α i)(x : δ k.1 k.2) :
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]:
```suggestion
theorem sigmaCurry_of [∀ i : ι, DecidableEq (α i)] (k : (i : ι) × α i) (x : δ k.1 k.2) :
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 13]
```diff
@@ -8,7 +8,6 @@ module
 public import Mathlib.Algebra.Group.Submonoid.Operations
 public import Mathlib.Data.DFinsupp.Sigma
 public import Mathlib.Data.DFinsupp.Submonoid
-
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean:11]: please revert, there should be a line break between the imports and module docstring

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean:11]: Sorry, that was an accident.

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 11 above)
Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: Yes, I've changed it.

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 14]
```diff
@@ -357,6 +369,37 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+`ι₂` and the fibres of a map `f : ι₁ → ι₂`. -/
+def sigmaFiberAddEquiv : (⨁ i, β i) ≃+ ⨁ (j : ι₂) (i : { i : ι₁ // f i = j}), β ↑i :=
+  (equivCongrLeft (Equiv.sigmaFiberEquiv f).symm).trans
+    (sigmaCurryEquiv (δ := fun j ↦ (fun (i : { i : ι₁ // f i = j}) ↦ β i)))
+
+theorem sigmaFiberAddEquiv_apply' (x : ⨁ i, β i) :
+    sigmaFiberAddEquiv f x = sigmaCurry (equivCongrLeft (Equiv.sigmaFiberEquiv f).symm x) := rfl
+
+@[simp]
+theorem sigmaFiberAddEquiv_apply (x : ⨁ i, β i) (j : ι₂) (i' : { i : ι₁ // f i = j}) :
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: I think this is more `_apply_apply` and the one above is `_apply`
```suggestion
theorem sigmaFiberAddEquiv_apply_apply (x : ⨁ i, β i) (j : ι₂) (i' : { i : ι₁ // f i = j}) :
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 15]
```diff
@@ -357,6 +369,37 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+    sigmaFiberAddEquiv f x j i' =  x i' := rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]:
```suggestion
    sigmaFiberAddEquiv f x j i' = x i' := rfl
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 16]
```diff
@@ -357,6 +369,37 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
...
+theorem sigmaFiberAddEquiv_apply (x : ⨁ i, β i) :
+    sigmaFiberAddEquiv f x = sigmaCurry (equivCongrLeft (Equiv.sigmaFiberEquiv f).symm x) := rfl
+
+@[simp]
+theorem sigmaFiberAddEquiv_apply_apply (x : ⨁ i, β i) (j : ι₂) (i' : { i : ι₁ // f i = j}) :
+    sigmaFiberAddEquiv f x j i' = x i' := rfl
+
+@[simp]
+theorem sigmaFiberAddEquiv_of [DecidableEq ι₁] (i : ι₁) (x : β i) :
+    sigmaFiberAddEquiv f (of _ i x) = of _ (f i) (of _ ⟨i, rfl⟩ x) := by
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: you don't need this
```suggestion
    sigmaFiberAddEquiv f (of _ i x) = of _ (f i) (of _ ⟨i, rfl⟩ x) :=
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 17]
```diff
@@ -357,6 +369,37 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
 
 end Sigma
 
+section SigmaFiber
+
+variable {ι₁ ι₂ : Type v} [DecidableEq ι₂] (f : ι₁ → ι₂)
+variable {β : ι₁ → Type w} [∀ i : ι₁, AddCommMonoid (β i)]
```
Comment (themathqueen) [inline Mathlib/Algebra/DirectSum/Basic.lean]: either do
```suggestion
variable {β : ι₁ → Type w} [Π i : ι₁, AddCommMonoid (β i)]
```
or
```suggestion
variable {β : ι₁ → Type w} [(i : ι₁) → AddCommMonoid (β i)]
```

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: As far as I can see, the pattern with "∀" that I used is by far the most common pattern in Mathlib for AddCommMonoid, including around ten occurrences in this same file. Is there some general reason to move away from this?  

I notice, however, that I should shorten "∀ i : ι₁" to "∀ i".

Comment (themathqueen) [reply Mathlib/Algebra/DirectSum/Basic.lean]: I **think** when we ported from Mathlib3 we started adding \forall instead of `Π` by accident, and then it flooded the library. But \forall is only really for propositions. If you look at the infoview or docs, these types are always printed `(i : _) -> _` which is exactly what `Π` is a shorthand for.

It doesn't make a difference though, this is just code hygiene.

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: I see.  What should I do then?  Change to Π in this one instance?  Change to Π in the whole file?  Leave it as it is, and prepare a separate PR with lots of ∀ changed to Π??

Comment (themathqueen) [reply Mathlib/Algebra/DirectSum/Basic.lean]: My advice is to only do this for new statements (so only for this one instance). Changing it for a whole file (or for more files) is a much bigger task and will need to be discussed on Zulip

Comment (TentativeConvert) [reply Mathlib/Algebra/DirectSum/Basic.lean]: OK, I've done that.

**Review by themathqueen — APPROVED** [review]
I think this is fine, thanks! Not entirely sure about the name `sigmaFiberAddEquiv`, but can't think of a better name, so I'll let someone else review this too.

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 18]
```diff
@@ -357,6 +369,37 @@ def sigmaCurryEquiv : (⨁ i : Σ _i, _, δ i.1 i.2) ≃+ ⨁ (i) (j), δ i j :=
 
 end Sigma
 
+section SigmaFiber
+
+variable {ι₁ ι₂ : Type v} [DecidableEq ι₂] (f : ι₁ → ι₂)
+variable {β : ι₁ → Type w} [Π i, AddCommMonoid (β i)]
+
+/-- The equivalence between a direct sum indexed by a type `ι₁` and the double sum indexed by a type
+`ι₂` and the fibres of a map `f : ι₁ → ι₂`. -/
```
Comment (joneugster) [inline Mathlib/Algebra/DirectSum/Basic.lean]:
```suggestion
`ι₂` and together with fibres of a map `f : ι₁ → ι₂`. -/
```

maybe? I've struggled to parse this sentence as it has the form `The equivalence between [...] and [...] and [...]`.

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 4 above)
Comment (joneugster) [reply Mathlib/Algebra/DirectSum/Basic.lean]: Indeed, `by exact e` should (preferrably) be avoided unless it's necessary. Note that `by exact e` and `e` are not identical: the former is a bit stronger and does some defeq-stuff.

However, I can't find anything about this in any convention, so before library-wide (automated) cleanups happen, it should probably be written down in the [style guide](https://leanprover-community.github.io/contribute/style.html#normal-forms).

File: Mathlib/Algebra/DirectSum/Basic.lean (hunk 17 above)
Comment (joneugster) [reply Mathlib/Algebra/DirectSum/Basic.lean]: again here, unless it's written down in the convention - or even better, enforced by a linter - we shouldn't force any particular style on PRs. (Even though, I do agree with the assessment to use `∀` for props and a dependent arrow for non-props is nice).

Might be that this sort of thing is handled automatically once the FRO releases their autoformatter.

**Review by joneugster — APPROVED** [review]
I see @themathqueen already did extensive reviewing, thanks! And thank you for the PR! I suggest,

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
